US05451347
2-(Chloromethyl)benzyltriethylphosphonium chloride (1).
To a mixture of α,α'-dichloro-o-xylene (15.0 g, 86.0 mmol) in toluene (200 ml) was added triethylphosphine (6.3 ml, 43.0 mmol) under argon gas. The reaction mixture was stirred for several days at room temperature under argon after which time the triethylphosphonium chloride salt had crystallized out of solution. The crystals were filtered and washed with toluene (3×50 mL) and pentane (3×50 mL) and dried: 1H NMR (CDCl3) δ 1.15-1.26 (dt, 9H), 2.58-2.69 (m, 6H), 4.39-4.44 (d, 2H), 4.87 (s, 2H), 7.31-7.34 (dd, 2H), 7.43-7.46 (dd, 1H), 7.50-7.54 (m, 1H).

reactant | α,α'-dichloro-o-xylene | 86.0 mmol, 15.0 g | ClCC=1C(=CC=CC1)CCl | C8H8Cl2
reactant | triethylphosphine | 43.0 mmol, 6.3 ml | C(C)P(CC)CC | C6H15P
reactant | triethylphosphonium chloride salt | [Cl-].C(C)[PH+](CC)CC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(Chloromethyl)benzyltriethylphosphonium chloride | [Cl-].ClCC1=C(C[P+](CC)(CC)CC)C=CC=C1 | InChI=1S/C14H23ClP.ClH/c1-4-16(5-2,6-3)12-14-10-8-7-9-13(14)11-15;/h7-10H,4-6,11-12H2,1-3H3;1H/q+1;/p-1
